US05011839
2Ethyl-4-bromo-5-(2-furanylmethylamino)-3(2H)pyridazinone (Compound No. 22)
A mixture comprising 564 mg of 2-ethyl-4,5-dibromo-3(2H)pyridazinone, 291 mg of 2-furanylmethylamine, 530 mg of sodium carbonate, 15 ml of water and 15 ml of 1,4-dioxane, was refluxed under stirring for 5 hours. The solvent was distilled off under reduced pressure, and water was poured to the residue thus obtained. The mixture was extracted with ethyl acetate. The extract was washed with water and dried over sodium sulfate. Then, the solvent was distilled off. The residue oily substance thus obtained was purified by silica gel column chromatography by using a mixture of benzene/ethyl acetate (volume ratio of 2/1) as developer to obtain 294 mg of the above identified compound as colorless crystals having a melting point of from 120° to 123° C. (as recrystallized from a mixture of ethyl acetate/ethyl ether/n-hexane).

reactant | 2-ethyl-4,5-dibromo-3(2H)pyridazinone | 564 mg | C(C)N1N=CC(=C(C1=O)Br)Br | C6H6Br2N2O
reactant | 2-furanylmethylamine | 291 mg | O1C(=CC=C1)CN | C5H7NO
reactant | sodium carbonate | 530 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 15 ml | O | H2O
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 2Ethyl-4-bromo-5-(2-furanylmethylamino)-3(2H)pyridazinone | C(C)N1N=CC(=C(C1=O)Br)NCC=1OC=CC1 | C11H12BrN3O2
